US05326776
To 24 mL (0.2 mol) of benzyl bromide dissolved in 42 mL of absolute ethanol was added 14.3 g (0.22 mol) of sodium azide. The mixture was refluxed slowly for 3 hours, cooled to ambient temperature and filtered. The filtrate was concentrated in vacuo and the resulting residue was diluted with 800 mL of heptane. Insoluble material was removed by filtration and the filtrate concentrated under reduced pressure to give 16.0 g (60%) of benzyl azide which was used without further purification.

reactant | benzyl bromide | 0.2 mol, 24 mL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | sodium azide | 0.22 mol, 14.3 g | [N-]=[N+]=[N-].[Na+]
solvent | ethanol | 42 mL | C(C)O | C2H6O
product | benzyl azide | 16.0 g, 60% | C(C1=CC=CC=C1)N=[N+]=[N-] | C7H7N3
